US08536176B2
(1) Potassium 4-sulfamoylphenolate
To a solution of 4-hydroxybenzenesulfonamide (200 mg, 1.15 mmol) in ethanol (1 mL) was added potassium hydroxide solution (0.5M in ethanol, 2.5 mL). The mixture was stirred at room temperature for 1 hour and concentrated under reduced pressure to give the title compound as a pale orange crystal (quantitative yield).

reactant | 4-hydroxybenzenesulfonamide | 1.15 mmol, 200 mg | OC1=CC=C(C=C1)S(=O)(=O)N | C6H7NO3S
reactant | potassium hydroxide | 0.5M, 2.5 mL | [OH-].[K+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | Potassium 4-sulfamoylphenolate | quantitative yield | S(N)(=O)(=O)C1=CC=C(C=C1)[O-].[K+] | InChI=1S/C6H7NO3S.K/c7-11(9,10)6-3-1-5(8)2-4-6;/h1-4,8H,(H2,7,9,10);/q;+1/p-1
